US08895544B2
{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl}-(4-fluoro-phenyl)-methanone
The title compound was prepared from 4-fluoro-benzoic acid (12.5 mg, 85 μmol) and 5-ethyl-2-fluoro-4-[3-(1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 32, 50 mg, 80 μmol) using the method of Example 8. The crude material was purified by HPLC Method B to afford 14.5 mg of the title compound.

reactant | 4-fluoro-benzoic acid | 85 μmol, 12.5 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | 5-ethyl-2-fluoro-4-[3-(1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 80 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CCNCC2)N1
product | {2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepin-6-yl}-(4-fluoro-phenyl)-methanone | 14.5 mg | C(C)C1=C(C=C(C(=C1)O)F)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CCN(CC2)C(=O)C2=CC=C(C=C2)F)N1 | C29H25F2N5O2
